US08071595B2
To a stirred solution of 2,2-dimethyl-5-(4-nitrophenyl)-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one (0.6 g, 1.28 mmol) in ethanol (10 mL) was added AcOH (1.28 mL) at RT under N2 atmosphere. After being stirred for 10 min at RT, the reaction mixture was heated to 70° C. and Fe (0.524 g, 9.04 mmol) and FeCl3 (0.062 g, 0.38 mmol) were added under N2 atmosphere. The reaction mixture was stirred at 70° C. for 2 h. After completion of starting material (by TLC), reaction mixture was cooled to RT, and the volatiles were evaporated in vacuo to obtain the crude product. The crude product was extracted in EtOAc (25 mL), washed with water (2×10 mL), brine and dried over anhydrous Na2SO4. After filtration and evaporation, the crude material was purified by silica gel column chromatography to afford 5-(4-aminophenyl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one (400 mg, 71%), as a yellow solid.

reactant | 2,2-dimethyl-5-(4-nitrophenyl)-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one | 1.28 mmol, 0.6 g | CC1(OC(=C(C1=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=C(C=C1)[N+](=O)[O-])C | C28H22N2O5
reactant | AcOH | 1.28 mL | CC(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Fe | 9.04 mmol, 0.524 g | [Fe] | Fe
product | 5-(4-aminophenyl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one | 400 mg, 71% | NC1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C28H24N2O3
